*** SPICE deck for cell tristate_inv{sch} from library proj2
*** Created on Tue May 05, 2026 12:49:55
*** Last revised on Tue May 05, 2026 12:54:06
*** Written on Tue May 05, 2026 12:54:16 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
*** Lambda Conversion ***
.opt scale=0.022U

* Model cards described in this file:
.include /Users/tmarhguy/Downloads/22nm_HP.pm

.global gnd vdd

*** TOP LEVEL CELL: tristate_inv{sch}
Mnmos@0 y en net@2 gnd N L=2 W=8
Mnmos@1 net@2 x gnd gnd N L=2 W=8
Mpmos@0 vdd x net@0 vdd P L=2 W=16
Mpmos@1 net@0 en_b y vdd P L=2 W=16
.END
